US09023849B2
1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidohydrazide
200 mg (0.77 mmol) of 1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidamide were initially charged in 4 ml of ethanol and cooled to 0° C. 310 mg (3.07 mmol) of triethylamine and 48 mg (0.77 mmol) of 80% hydrazine hydrate were added, and the mixture was stirred at room temperature for 72 h. The mixture was concentrated on a rotary evaporator, taken up in ethyl acetate and washed three times with saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulphate, concentrated on a rotary evaporator and dried under high vacuum. 209 mg (100% of theory) of the target compound were obtained.

reactant | 1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidamide | 0.77 mmol, 200 mg | FC1=C(CN2N=C(C3=C2CCC3)C(N)=N)C=CC=C1 | C14H15FN4
reactant | triethylamine | 3.07 mmol, 310 mg | C(C)N(CC)CC | C6H15N
reactant | hydrazine hydrate | 0.77 mmol, 48 mg | O.NN
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazole-3-carboximidohydrazide | FC1=C(CN2N=C(C3=C2CCC3)C(NN)=N)C=CC=C1 | C14H16FN5
